US08071629B2
20.06 g of 3,5-dichloro-2-fluoropyridine (0.110 mol), 30.46 ml of tributyl-vinyl-stannane (0.103 mol), 6.00 g (0.00518 mol) of Pd(PPh3)4 are refluxed in 400 ml of toluene for five hours. The reaction mixture is washed thrice with a saturated aqueous solution of potassium fluoride 200 ml), once with water (300 ml), once with brine (300 ml). The combined aqueous phases are extracted with 100 ml of toluene. After separation, the combined organic phases are dried over magnesium sulfate, filtered, concentrated to dryness and purified on silica to yield to 15.05 g of 3,5-dichloro-2-vinylpyridine (62%) with 75% purity.

reactant | 3,5-dichloro-2-fluoropyridine | 0.110 mol, 20.06 g | ClC=1C(=NC=C(C1)Cl)F | C5H2Cl2FN
reactant | tributyl-vinyl-stannane | 0.103 mol, 30.46 ml | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.00518 mol, 6.00 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3,5-dichloro-2-vinylpyridine | 15.05 g, 62% | ClC=1C(=NC=C(C1)Cl)C=C | C7H5Cl2N
